US06384080B1
To a solution of ethyl 2-amino-5-nitrobenzoate (5.00 g), cyclopentanone (9.00 g) and sodium borohydride (4.05 g) in anhydrous tetrahydrofuran (100 mL) was added sulfuric acid (6 mL) under ice-water cooling. The mixture was stirred for 9 hours at 0° C. and then for 15 hours at ambient temperature. The mixture was neutralized with an aqueous saturated sodium bicarbonate solution and extracted with ethyl acetate. The extract was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by a silica gel column chromatography eluting with a mixture of hexane and ethyl acetate (5:1). The obtained product was triturated with hexane to give ethyl 2-cyclopentylamino-5-nitrobenzoate as yellow powders (5.94 g).

reactant | ethyl 2-amino-5-nitrobenzoate | 5.00 g | NC1=C(C(=O)OCC)C=C(C=C1)[N+](=O)[O-] | C9H10N2O4
reactant | cyclopentanone | 9.00 g | C1(CCCC1)=O | C5H8O
reactant | sodium borohydride | 4.05 g | [BH4-].[Na+]
reactant | sulfuric acid | 6 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | ethyl 2-cyclopentylamino-5-nitrobenzoate | 5.94 g | C1(CCCC1)NC1=C(C(=O)OCC)C=C(C=C1)[N+](=O)[O-] | C14H18N2O4
